Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:11]([H:12])[H:13].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([C:4]([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-6.57399568855
[H:1][O:2]/[C:3]=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-4.83748166695
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[O:4][C:5][H:6],3.94823926775
[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-7.05199220348
[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[C:9](=[C:7][H:8])[H:10]>>[H:1][C:2][C:3]1=[C:4][C:5]([H:6])=[C:7]([H:8])[C:9]1[H:10],-1.52556309637
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10],3.6483831637
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.08307235028
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7],7.07049666383
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])=[C:9]([H:10])[H:11].[H:8],1.51393247093
[C:3](#[C:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])[H:12].[H:1][O:2]>>[H:1][O:2]/[C:3](=[C:4]/[C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])[H:12],-3.12668546194
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[O:11][H:12],3.64002875301
[C:1]#[C:2][C:3]([O:4][H:5])[C:6]=[C:8]([H:9])[H:10].[H:7]>>[C:1]#[C:2]/[C:3]([O:4][H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10],-4.95702842596
[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]=[C:9](\[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.97787148995
[C:1][C:2](=[C:3]([O:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([O:4][H:5])[O:6][H:7].[C:8]([H:9])([H:10])[H:11],1.58172342121
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-3.52756527775
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7].[O:8][H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],-6.3132215269800005
[H:1][O:2][C:3][O:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])(=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]=[O:4],-1.06696786206
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[C:4]([H:5])([H:6])=[C:7][O:8][C:9]([H:10])[H:11].[H:1][C:2]=[O:3],-0.598158413708
[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4](#[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3],2.9749167504600003
[C:12]([H:13])[H:14].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-5.05588910163
[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20],-3.9366852755
[H:3].[O:1]=[C:2]=[C:4][O:5][C:6]#[C:7][H:8]>>[O:1]=[C:2]([H:3])[C:4][O:5][C:6]#[C:7][H:8],-2.1515714155400003
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([O:12])([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([O:12])([H:13])[H:14],-0.979333790887
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.77697294988
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3](=[C:4](\[H:5])[C:6][C:7]([H:8])([H:9])[H:10])\[C:11]([H:12])([H:13])[H:14].[H:1][O:2],6.2370267121300005
[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([O:9][H:10])=[C:11]([H:12])[H:13]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-0.308064604389
[C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[H:1][C:2]=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1]/[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],-6.229373441919999
